US05604181
Ethyl 2-[3-(2-chlorophenyl)ureido]-2-(4,6-dimethoxypyrimidin-2-yl)-3-methylbutanoate
A solution of ethyl 2-amino-3-methyl-2-(4,6-dimethoxypyrimidin-2-yl)butanoate (0.556 g) and 2-chlorophenylisocyanate (0.306 g) in ethyl acetate (30 ml) was refluxed for 5 hours, evaporated to dryness, and flash chromatographed on silica gel, eluting with ethyl acetate/60°-80° petroleum ether (1:2). The residual gum was triturated with 60°-80° petroleum ether, to give 0.76 g of the desired product as a white solid, mp 84°-87° C.

reactant | ethyl 2-amino-3-methyl-2-(4,6-dimethoxypyrimidin-2-yl)butanoate | 0.556 g | NC(C(=O)OCC)(C(C)C)C1=NC(=CC(=N1)OC)OC | C13H21N3O4
reactant | 2-chlorophenylisocyanate | 0.306 g | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-[3-(2-chlorophenyl)ureido]-2-(4,6-dimethoxypyrimidin-2-yl)-3-methylbutanoate | 0.76 g | ClC1=C(C=CC=C1)NC(NC(C(=O)OCC)(C(C)C)C1=NC(=CC(=N1)OC)OC)=O | C20H25ClN4O5
